US07223776B2
16 a) 8-(6-Methoxy-[1,5]naphthyridin-4-ylethynyl)-1,4-dioxa-spiro[4.5]decan-8-ol
A degassed solution of trifluoromethanesulphonic acid 6-methoxy-[1,5]naphthyridin-4-yl ester (986 mg, 3.2 mmol) (WO 03 010138) and 8-ethynyl-1,4-dioxa-spiro[4.5]decan-8-ol (638 mg, 3.5 mmol) (prepared according to J. Chem. Soc. Perk. Trans. 1, 2000, 3382) in DMF (3 ml) was added dropwise to a likewise degassed suspension of copper(I) iodide (50 mg) and PdCl2(PPh3)2 (100 mg) in DMF (2 ml) and triethylamine (3 ml). The reaction mixture was stirred at room temperature for 30 minutes and diluted with water and ether, and the organic phase was washed with water, saturated ammonium chloride solution and saturated sodium chloride solution, dried over MgSO4 and concentrated. The crude product was purified by chromatography on silica gel (hex/EtOAc 1:1, EtOAc).

reactant | trifluoromethanesulphonic acid 6-methoxy-[1,5]naphthyridin-4-yl ester | 3.2 mmol, 986 mg | COC=1N=C2C(=CC=NC2=CC1)OS(=O)(=O)C(F)(F)F | C10H7F3N2O4S
reactant | 8-ethynyl-1,4-dioxa-spiro[4.5]decan-8-ol | 3.5 mmol, 638 mg | C(#C)C1(CCC2(OCCO2)CC1)O | C10H14O3
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
catalyst | copper(I) iodide | 50 mg | [Cu]I
catalyst | PdCl2(PPh3)2 | 100 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 8-(6-Methoxy-[1,5]naphthyridin-4-ylethynyl)-1,4-dioxa-spiro[4.5]decan-8-ol | COC=1N=C2C(=CC=NC2=CC1)C#CC1(CCC2(OCCO2)CC1)O | C19H20N2O4
